US04227000
2-Hydroxymethyl-3,4-dimethoxypyridine was reacted with thionyl chloride in chloroform to give 2-chloromethyl-3,4-dimethoxypyridine hydrochloride, m.p. 158°-9° (decomp), which was reacted with cysteamine hydrochloride and sodium ethoxide in ethanol to give 2-(3,4-dimethoxy-2-pyridylmethylthio)-ethylamine.

reactant | 2-Hydroxymethyl-3,4-dimethoxypyridine | OCC1=NC=CC(=C1OC)OC | C8H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3,4-dimethoxypyridine hydrochloride | Cl.ClCC1=NC=CC(=C1OC)OC | InChI=1S/C8H10ClNO2.ClH/c1-11-7-3-4-10-6(5-9)8(7)12-2;/h3-4H,5H2,1-2H3;1H
